US04771043
To a stirred solution of 6α-amino androsta-1,4-diene-3,17-dione (1,4 g) in 5.5 ml of dry pyridine, 2.8 ml of acetic anhydride are added dropwise at room temperature. The solution is stirred for 90 minutes and then water is dropped into the cooled (0° C.) solution. After 10 minutes stirring the reaction mixture is extracted with five 100 ml portions of ethyl acetate which are collected and dried over anhydrous sodium sulphate. The solvent is then removed in vacuum to yield a crude which is purified by chromatography on silica gel so obtaining 1.30 g of pure 6α-acetylamino androsta-1,4-diene-3,17-dione;

reactant | 6α-amino androsta-1,4-diene-3,17-dione | 1,4 g | N[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | C19H25NO2
reactant | water | O | H2O
reactant | pyridine | 5.5 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 2.8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6α-acetylamino androsta-1,4-diene-3,17-dione | 1.30 g | C(C)(=O)N[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | C21H27NO3
